US05907038
754 mg of (3R,4R)-4-(Biphenyl-4-ylcarbonyloxy)-3-[4-(tert-butyl-dimethyl-silanyloxy)-benzoylamino]-azepane-1-carboxylic acid tert-butyl ester were dissolved in 10 ml tetrahydrofuran and 147 mg of tetrabutylammoniumfluoride trihydrate were added at 0° C. and the reaction mixture was stirred for two hours at room temperature. 2.5 ml of a saturated solution of sodium chloride and 2.5 ml of an aqueous 1 molar solution of citric acid were added. The organic layer was concentrated under vacuo diluted with ethyl acetate then washed with 5 ml of a saturated solution of sodium chloride dried over magnesium sulfate and evaporated. The crude compound was purified on silica gel (dichloromethane:ethylacetate 1:1) to yield 551 mg (89% yield) of (3R,4R)-4-(Biphenyl-4-ylcarbonyloxy)-3-(4-hydroxy-benzoylamino)-azepane-1-carboxylic acid tert-butyl ester.

reactant | (3R,4R)-4-(Biphenyl-4-ylcarbonyloxy)-3-[4-(tert-butyl-dimethyl-silanyloxy)-benzoylamino]-azepane-1-carboxylic acid tert-butyl ester | 754 mg | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](CCC1)OC(=O)C1=CC=C(C=C1)C1=CC=CC=C1)NC(C1=CC=C(C=C1)O[Si](C)(C)C(C)(C)C)=O | C37H48N2O6Si
reactant | tetrabutylammoniumfluoride trihydrate | 147 mg | CCCC[N+](CCCC)(CCCC)CCCC.O.O.O.[F-]
reactant | sodium chloride | [Cl-].[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | (3R,4R)-4-(Biphenyl-4-ylcarbonyloxy)-3-(4-hydroxy-benzoylamino)-azepane-1-carboxylic acid tert-butyl ester | 551 mg, 89% yield | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](CCC1)OC(=O)C1=CC=C(C=C1)C1=CC=CC=C1)NC(C1=CC=C(C=C1)O)=O | C31H34N2O6
